* Z:\home\pc\Downloads\GIT\project-reverse-lab\DAN_signle_stage.asc
* Generated by LTspice 26.0.2 for Windows.
B1 cmdP 0 V=if (mod(time,T)>T/2,1,-1)*if(v(Vp) >0,1,-1)
B2 phi 0 V=0.7*abs(sin(2*pi*50*time))
B4 delay 0 V=(v(phi )/ (2 * pi) )* T
B5 cmdS 0 V=if(mod(time-v(delay),T)>T/2,1,-1)
B3 Vp 0 V=320*sin(2*pi*50*time)
B8 iac 0 V=I(B3)*V(cmdP)
R1 iac_filter iac 1k
C1 iac_filter 0 50n
B9 ibat 0 V=I(L2)*V(cmdS)
R2 ibat_filter ibat 1k
C2 ibat_filter 0 10n
S1 N011 Vp N005 N009 SW
B11 N005 N009 V=v(cmdP)
S2 0 N013 N015 N019 SW
B12 N015 N019 V=v(cmdP)
S3 0 N011 N014 N018 SW
B13 N014 N018 V=-v(cmdP)
S4 N013 Vp N003 N007 SW
B14 N003 N007 V=-v(cmdP)
S5 N012 N001 N006 N010 SW
B15 N006 N010 V=v(cmdS)
S6 N022 N013 N017 N021 SW
B16 N017 N021 V=v(cmdS)
S7 N022 N012 N016 N020 SW
B17 N016 N020 V=-v(cmdS)
S8 N013 N001 N004 N008 SW
B18 N004 N008 V=-v(cmdS)
V1 N002 N022 200 Rser=1m
L2 N011 N012 15µ Rser=1m Rpar=1meg
C3 N001 N022 10µ
L1 N002 N001 1µ Rser=1m
.ic i(L1)=0 i(L2)=0
.tran 0 30m 1m 100n
.param T = 10u
.ic v(ibat_filter)=0
.model SW SW (ron = 1m roff=100k vt=0.5 vh=0.2)
.backanno
.end
